US08629147B2
3-Formyl-hydroxyphenyl boronic acid
To a solution of 4-bromo-2-dimethoxymethylphenol (10.0 g, 0.36 mol) in abs. ether (200 ml) n-BuLi (68 ml of 1.6 M hexane solution, 0.109 mol) was added dropwise under argon keeping the reaction mixture temperature below 25° C. Than the reaction mixture was refluxed for 3 h, then cooled to −95° C., trimethyl borate (14.3 ml, 0.128 mol) was added dropwise keeping the temperature below −95° C. After the addition was completed the temperature was increased to the RT overnight. Aqueous 1 M HCl (200 ml) was added to the stirring reaction mixture to reach pH 1.0. Organic phase was separated; aqueous phase was extracted with ether (4×50 ml). Combined organic phases were evaporated; the residue was triturated with benzene (25 ml) using an ultrasonic bath. Tan precipitate formed was collected by filtration, washed with hexane (2×10 ml) dried. Yield 2.63 g (15.8 mmol, 43%).

reactant | 4-bromo-2-dimethoxymethylphenol | 0.36 mol, 10.0 g | BrC1=CC(=C(C=C1)O)C(OC)OC | C9H11BrO3
reactant | ether | 0.109 mol, 1.6 M, 200 ml | CCOCC | C4H10O
reactant | trimethyl borate | 0.128 mol, 14.3 ml | B(OC)(OC)OC | C3H9BO3
solvent | HCl | 1 M, 200 ml | Cl | ClH
product | 3-Formyl-hydroxyphenyl boronic acid | C(=O)C=1C=C(C=CC1)B(OO)O | C7H7BO4
